US06284785B1
(RS)-1-(4-Chloro-benzenesulfonyl)-2-(3-chloro-phenyl)-pyrrolidine
The title compound, light brown solid, m.p. 99° C. and MS: m/e=355 (M+) was prepared in accordance with the general method of example 1e from (RS)-2-(3-chloro-phenyl)-pyrrolidine and 4-chloro-benzenesulfonyl chloride.

reactant | (RS)-2-(3-chloro-phenyl)-pyrrolidine | ClC=1C=C(C=CC1)C1NCCC1 | C10H12ClN
reactant | 4-chloro-benzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | (RS)-1-(4-Chloro-benzenesulfonyl)-2-(3-chloro-phenyl)-pyrrolidine | ClC1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)C1=CC(=CC=C1)Cl | C16H15Cl2NO2S
